US04904653
(b) N-(2-hydroxy-2-phenylethyl) N-methyl thiophene-3-ethylamine
A solution of methyl thiophene-3-ethylamine (3.3 g) and styrene oxide (1.8 ml) in acetonitrile (17 ml) was heated under reflux for 24 hours. The mixture was evaporated and the residual oil chromatographed on silica eluting with 2% methanol in dichloromethane to give the title product as an oil.

reactant | methyl thiophene-3-ethylamine | 3.3 g | CC=1SC=CC1CCN | C7H11NS
reactant | styrene oxide | 1.8 ml | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | acetonitrile | 17 ml | C(C)#N | C2H3N
product | N-(2-hydroxy-2-phenylethyl) N-methyl thiophene-3-ethylamine | OC(CN(CCC1=CSC=C1)C)C1=CC=CC=C1 | C15H19NOS
